US05158943
A mixture of methyl 2-bromo-3-(4-methylphenyl)propionate (25.7 g), potassium thioacetate (CH3COSK) (13.7 g) and DMF (120 ml) was stirred for an hour at room temperature. The mixture was poured into water and extracted with ether. The ethereal layer was washed with water, dried (MgSO4) and concentrated to give methyl 2-acetylthio-3-(4-methylphenyl)propionate (25.2 g, 100%) as an oil.

reactant | methyl 2-bromo-3-(4-methylphenyl)propionate | 25.7 g | BrC(C(=O)OC)CC1=CC=C(C=C1)C | C11H13BrO2
reactant | potassium thioacetate | 13.7 g | C(C)(=S)[O-].[K+]
reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 2-acetylthio-3-(4-methylphenyl)propionate | 25.2 g, 100% | C(C)(=O)SC(C(=O)OC)CC1=CC=C(C=C1)C | C13H16O3S
